US07772221B2
Step AH (3): To a solution of 1-bromo-2-(dimethoxymethyl)-4-methoxybenzene (688.5 mg, 2.637 mmol) in THF (7.0 mL) at −78° C. was added n-butyl lithium (3.46 mL, 5.538 mmol). The resulting mixture was stirred at −78° C. for 15 min. 5-Bromopent-1-ene (0.31 mL, 2.637 mmol) was added by drops. The reaction mixture was warmed to rt and stirred overnight. Aqueous hydrochloric acid solution (1N) was added and the reaction mixture was stirred at rt for 3 h. The reaction was extracted with DCM. The combined organic phases were dried over Na2SO4, filtered and concentrated in vacuum. The residue was purified by silica gel chromatography to give 5-methoxy-2-(pent-4-enyl)benzaldehyde (538.6 mg, 100%) as colorless oil. LC-MS (M+H)+=205.36. 1H NMR (CDCl3, 500 MHz) δ 10.30 (s, 1H) 7.35 (d, J=3.0 Hz, 1H) 7.17 (m, 1H) 7.06 (m, 1H) 5.82 (m, 1H) 5.05-4.98 (m, 2H) 3.84 (s, 3H) 2.12 (m, 2H) 1.69 (m, 2H) 1.57 (m, 2H).

reactant | 1-bromo-2-(dimethoxymethyl)-4-methoxybenzene | 2.637 mmol, 688.5 mg | BrC1=C(C=C(C=C1)OC)C(OC)OC | C10H13BrO3
reactant | n-butyl lithium | 5.538 mmol, 3.46 mL | C(CCC)[Li]
reactant | 5-Bromopent-1-ene | 2.637 mmol, 0.31 mL | BrCCCC=C | C5H9Br
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | THF | 7.0 mL | C1CCOC1 | C4H8O
product | 5-methoxy-2-(pent-4-enyl)benzaldehyde | 538.6 mg, 100% | COC=1C=CC(=C(C=O)C1)CCCC=C | C13H16O2
